US04563459
Sodium 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylate
68 g of powdered 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid are suspended in 300 ml of water. A solution of 7.7 g of sodium hydroxide in 30 ml of water is added and the mixture is stirred at room temperature for 30 minutes, whereupon most of the carboxylic acid dissolves. The undissolved product is filtered off and rinsed with water and the filtrate is concentrated in vacuo. The yellowish crystalline residue is dried in vacuo at 100° C. Yield: 73.4 g of the sodium salt. Melting point 325° C.

reactant | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 68 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C17H18FN3O3
reactant | sodium hydroxide | 7.7 g | [OH-].[Na+]
solvent | water | 300 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | Sodium 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylate | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)[O-].[Na+] | InChI=1S/C17H18FN3O3.Na/c18-13-7-11-14(8-15(13)20-5-3-19-4-6-20)21(10-1-2-10)9-12(16(11)22)17(23)24;/h7-10,19H,1-6H2,(H,23,24);/q;+1/p-1
